US06495542B1
A solution of sodium iodide (462 mg), chlorotrimethylsilane (335 mg) and acetonitrile (0.2 ml) in hexane (0.5 ml) was cooled to 0° C. To the solution was added methyl 4-(2,3-dimethyl-4-hydroxy-5,6,7,8-tetrahydro-4H-thieno[2,3-b]azepin-8-yl)carbonyl-2-methoxybenzoate (200 mg) in acetonitrile (1.0 ml). The mixture was stirred at room temperature for 5 hours. The reaction mixture was diluted with ethyl acetate and washed with aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by silica gel column chromatography (SiO2; 30 g, CHCl3) to give methyl 4-(2,3-dimethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-b]azepin-8-yl)carbonyl-2-methoxybenzoate (150 mg).

reactant | sodium iodide | 462 mg | [I-].[Na+]
reactant | chlorotrimethylsilane | 335 mg | Cl[Si](C)(C)C | C3H9ClSi
reactant | methyl 4-(2,3-dimethyl-4-hydroxy-5,6,7,8-tetrahydro-4H-thieno[2,3-b]azepin-8-yl)carbonyl-2-methoxybenzoate | 200 mg | CC1=C(C2=C(N(CCCC2O)C(=O)C2=CC(=C(C(=O)OC)C=C2)OC)S1)C | C20H23NO5S
solvent | hexane | 0.5 ml | CCCCCC | C6H14
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 0.2 ml | C(C)#N | C2H3N
product | methyl 4-(2,3-dimethyl-5,6,7,8-tetrahydro-4H-thieno[2,3-b]azepin-8-yl)carbonyl-2-methoxybenzoate | 150 mg | CC1=C(C2=C(N(CCCC2)C(=O)C2=CC(=C(C(=O)OC)C=C2)OC)S1)C | C20H23NO4S
